US07470723B2
A mixture of (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-methyl-phenyl) -methanol from above and activated MnO2 (3 g, 35 mmol) in methylene chloride (30 mL) was stirred at room temperature for 18 h. More MnO2 (1.3 g×2) was added and kept for overnight. The suspension was filtered thru a pad of Celite. Removal of solvent gave (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-methyl-phenyl)-methanone as a white solid (1.23 g, 68% crude yield 2 steps). The sample was used in the next step without further purification.

reactant | (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-methyl-phenyl) -methanol | C(C)OC=1C=C(C=CC1OC)C(O)C1=CC(=C(C=C1)OC)C | C18H22O4
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 35 mmol, 3 g | O=[Mn]=O
catalyst | MnO2 | 1.3 g | O=[Mn]=O
product | (3-ethoxy-4-methoxy-phenyl)-(4-methoxy-3-methyl-phenyl)-methanone | C(C)OC=1C=C(C=CC1OC)C(=O)C1=CC(=C(C=C1)OC)C | C18H20O4
